US08957089B2
98.1 1-(6-Chloropyridin-2-yl)cyclobutanecarbonitrile
2-(6-Chloropyridin-2-yl)acetonitrile (5.7 g, 37.4 mmol) was dissolved in dichloromethane (25 ml). 50% aqueous sodium hydroxide solution (26.5 mL) was added dropwise. Benzyl-triethylammonium chloride (0.17 g, 0.747 mmol) was added. 1,3-Dibromopropane (7.54 g, 37.4 mmol) were added dropwise and the reaction mixture was stirred over night at room temperature. The reaction mixture was diluted with dichloromethane and washed with water (3×). The organic layer was dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography (silica, dichloromethane, methanol). Yield: 2.4 g (10.9 mmol, 29%).

reactant | 2-(6-Chloropyridin-2-yl)acetonitrile | 37.4 mmol, 5.7 g | ClC1=CC=CC(=N1)CC#N | C7H5ClN2
reactant | sodium hydroxide | 26.5 mL | [OH-].[Na+]
reactant | 1,3-Dibromopropane | 37.4 mmol, 7.54 g | BrCCCBr | C3H6Br2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | Benzyl-triethylammonium chloride | 0.747 mmol, 0.17 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(6-Chloropyridin-2-yl)cyclobutanecarbonitrile | ClC1=CC=CC(=N1)C1(CCC1)C#N | C10H9ClN2
